US03994886
7-ACA (13.65 g) and 2-thiazoline-2-thiol (11.92 g) are suspended in 500 ml. of phosphate buffer 0.2 M (Na2HPO4 /NaH2PO4) pH 6.5. To the suspension are added with stirring 12.6 g. of NaHCO3 and 250 ml. of acetone. The reaction medium is heated for 21/4 hrs with stirring on a 80° C water bath. The solution is then treated with charcoal, cooled (5°-10° C) and acidified to pH 4 with 2 N hydrochloric acid. The obtained suspension is diluted with acetone and stirred for 15-20 minutes. The precipitate is filtered, washed with water, acetone and ethyl ether and dried under reduced pressure to yield 7-amino-3-(2-thiazolin-2-ylthiomethyl)-3-cephem-4-carboxylic acid.

reactant | 7-ACA | 13.65 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 2-thiazoline-2-thiol | 11.92 g | S1C(=NCC1)S | C3H5NS2
reactant | phosphate | 0.2 M, pH 6.5 | P(=O)([O-])([O-])[O-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | charcoal | C | CH4
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 7-amino-3-(2-thiazolin-2-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC=2SCCN2)C(=O)O)C1=O | C11H13N3O3S3
